US20010018525A1
step 4 (2′-Methoxyethoxymethoxy-[1,1′;3′,1″]terphenyl-5′-yloxy)butane
To a stirred solution of 2′-methoxyethoxymethoxy-[1,1′;3′,1″]terphenyl-5′-ol (0.240 g, 0.685 mmol) in DMF (10 mL) at room temperature was added K2CO3 (0.123 g, 0.890 mmol) followed by dropwise addition of 1-bromobutane (0.147 mL, 1.37 mmol). The reaction mixture was then heated to 60 °C. After 4 days at this temperature, the resulting solution was diluted with H2O (10 riL) and excess EtOAc (100 mL). The organic layer was washed with 1 N HCl (10 mL), sat. aq. NaHCO3 (10 mL), and brine (10 mL) and then dried (MgSO4). After concentration, the residue was purified by preparatory plate chromatography (20% EtOAc/petroleum ether) to afford the product (0.257 g, 92%) as a solid; 1H NMR (CDCl3) δ0.97 (t, J=8.1 Hz, 3H), 1.46-1.57 (m, 2H), 1.72-1.82 (m, 2H), 2.80 (t, J=5.6 Hz, 2H), 2.95 (t, J=5.6 Hz, 2H), 3.17 (s, 3H), 3.99 (t, J=6.9 Hz, 2H), 4.37 (s, 2H), 6.87 (s, 2H), 7.28-7.46 (m, 6H), 7.58 (d, J=7.5 Hz, 4H); mass spectrum [(+) ESI], m/z 429 (M+Na)+.

reactant | 2′-methoxyethoxymethoxy-[1,1′;3′,1″]terphenyl-5′-ol | 0.685 mmol, 0.240 g | COCCOCOC1=C(C=C(C=C1C1=CC=CC=C1)O)C1=CC=CC=C1 | C22H22O4
reactant | K2CO3 | 0.890 mmol, 0.123 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromobutane | 1.37 mmol, 0.147 mL | BrCCCC | C4H9Br
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | (2′-Methoxyethoxymethoxy-[1,1′;3′,1″]terphenyl-5′-yloxy)butane | 0.257 g, 92% | COCCOCOC1=C(C=C(C=C1C1=CC=CC=C1)OCCCC)C1=CC=CC=C1 | C26H30O4
